US07709509B2
3.0 g {4-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-chloro-phenyl}-methanol and 1.84 ml triethylamine were dissolved in 150 ml dichloromethane. To this ice cooled solution were added 0.82 ml methanesulfonylchloride. The cooling bath was removed and the reaction mixture was stirred at room temperature additional three hours. The reaction mixture was washed three times with 50 ml saturated NaHCO3 solution dried over MgSO4 and the solvent was removed in vacuo to provide 3.1 g 4-Butyl-5-(3-chloro-4-chloromethyl-phenoxymethyl)-2-(4-trifluoromethyl-phenyl)-thiazole as crude material. This material was used without further purification.

reactant | {4-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-chloro-phenyl}-methanol | 3.0 g | C(CCC)C=1N=C(SC1COC1=CC(=C(C=C1)CO)Cl)C1=CC=C(C=C1)C(F)(F)F | C22H21ClF3NO2S
reactant | triethylamine | 1.84 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonylchloride | 0.82 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 4-Butyl-5-(3-chloro-4-chloromethyl-phenoxymethyl)-2-(4-trifluoromethyl-phenyl)-thiazole | 3.1 g | C(CCC)C=1N=C(SC1COC1=CC(=C(C=C1)CCl)Cl)C1=CC=C(C=C1)C(F)(F)F | C22H20Cl2F3NOS
